US07307099B2
1-(2,4,6-Triisopropyl-benzenesulfonyl)-1H-indole
The title compound was prepared from 2,4,6-triisopropyl-benzene sulfonyl chloride and 1H-indole, according to Method A, described above. Yield 88%; mp 131-133° C.; 1H NMR (CDCl3) δ 7.41-7.65 (m, 3H), 7.18-7.28 (m, 4H), 6.65-6.68 (dd, J=8 Hz, 1H), 4.15-4.31 (m, 2H), 2.81-2.97 (m, 1H), 1.28 and 1.29 (2s, 6H), 0.98-1.12 (m, 12H).

reactant | 2,4,6-triisopropyl-benzene sulfonyl chloride | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)Cl | C15H23ClO2S
reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
product | 1-(2,4,6-Triisopropyl-benzenesulfonyl)-1H-indole | Yield 88% | C(C)(C)C1=C(C(=CC(=C1)C(C)C)C(C)C)S(=O)(=O)N1C=CC2=CC=CC=C12 | C23H29NO2S
